* C:\Users\aaron\OneDrive\Desktop\repos\SSS_Motherboard\hardware\PWM_Filter.asc
V1 PWM 0 PULSE(0 3.3 0 10p 10p .6u 2u 20)
R1 Filtered_PWM N001 53
C1 Filtered_PWM 0 .1µ
R2 Filtered_PWM 0 500k
V2 N002 0 12
XU2 PWM 0 N002 N003 PC817 Igain=1m
R3 N003 0 500k
R4 0 N003 53
C2 0 0 .1µ
.tran 100u
.lib PC817.sub
.backanno
.end
